US07816522B2
(202a) 2-Fluoro-5-methoxy-3-(2-methoxyethoxy)benzaldehyde
The same procedure was carried out as in Example (3e), except that 2-25 fluoro-3-hydroxy-5-methoxybenzaldehyde [CAS No. 883576-31-6] and 2-bromoethylmethyl ether were used instead of respectively [2-(2-fluoro-3-hydroxy-5-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester and 1-fluoro-2-iodoethane, to give the title compound was obtained as a white solid.

reactant | fluoro-3-hydroxy-5-methoxybenzaldehyde | FC1=C(C=O)C=C(C=C1O)OC | C8H7FO3
reactant | 2-bromoethylmethyl ether | BrCCOC | C3H7BrO
reactant | [2-(2-fluoro-3-hydroxy-5-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)OC)O)F)SC)=O | C21H19FN4O5S
reactant | 1-fluoro-2-iodoethane | FCCI | C2H4FI
product | 2-Fluoro-5-methoxy-3-(2-methoxyethoxy)benzaldehyde | FC1=C(C=O)C=C(C=C1OCCOC)OC | C11H13FO4
